US09382238B2
To a mixture of N-(4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (30 mg, 0.044 mmol) in DCM (10 mL) was added Pd/C (4 mg, 0.038 mmol). The mixture was stirred at 25° C. for 72 h under H2. The mixture was filtered and concentrated. The crude material was purified by preparative HPLC (Column: ASB C18 150*25 mm; Mobile phase A: Water+0.1% HCl; Mobile phaseB: MeCN; Flowrate: 25 mL/min; Gradient Profile Description: 45-75 (B %)) to yield an off-white solid of 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)acetamide hydrochloride (7.91 mg, 0.015 mmol, 34.6% yield). TLC (DCM/MeOH=9:1, Rf=0.2): 1H NMR (400 MHz, CD3OD): δ 9.08 (d, J=2.0 Hz, 1H), 8.32 (dd, J=2.4, 8.8 Hz, 1H), 7.93 (d, J=8.8 Hz, 1H), 7.81 (s, 1H), 7.44 (t, J=8.0 Hz, 1H), 7.34-7.27 (m, 2H), 6.39 (s, 1H), 4.25 (q, J=7.2 Hz, 2H), 3.89 (s, 2H), 1.69 (s, 6H), 1.41 (t, J=7.2 Hz, 3H). ES-LCMS m/z 478.1 (M+H).

reactant | N-(4-bromo-6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)-2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.044 mmol, 30 mg | BrC1=C(C=NC(=C1)C(C(F)(F)F)(C)C)NC(CC1=C(C=C(C=C1)C=1C=NC(=CC1OCC)OCC1=CC=C(C=C1)OC)F)=O | C32H30BrF4N3O4
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 0.038 mmol, 4 mg | [Pd] | Pd
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(6-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-3-yl)acetamide hydrochloride | 0.015 mmol, 7.91 mg, 34.6% yield | Cl.C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC=1C=NC(=CC1)C(C(F)(F)F)(C)C)F | InChI=1S/C24H23F4N3O3.ClH/c1-4-34-19-11-21(32)30-13-17(19)14-5-6-15(18(25)9-14)10-22(33)31-16-7-8-20(29-12-16)23(2,3)24(26,27)28;/h5-9,11-13H,4,10H2,1-3H3,(H,30,32)(H,31,33);1H
